US07635700B2
A solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide (0.5 g, 1.9 mmol) and triethyl orthopropionate (0.42 mL, 2.1 mmol) in DMF (5 mL) was heated at 150° C. in a microwave oven for 1.5 hours. To the mixture, was added water (30 mL). The mixture was cooled in an ice-water bath. The suspension was filtered to give a solid, which was stirred in methanol (15 mL) overnight. The suspension was filtered and washed with methanol (10 mL) and ethyl acetate (10 mL) to give 3-(2-ethyl-5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (0.13 g, 22% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 grad 90/10 in 5 min CH3CN/0.1% H3PO4, 5.74 min (98.9%); mp: 228-230° C.; 1H NMR (DMSO-d6) δ 1.27 (t, J=7 Hz, 3H, CH3), 2.07-2.13 (m, 1H, CHH), 2.50 (s, 3H, CH3), 2.51-2.65 (m, 2H, 2CHH), 2.82-2.92 (m, 3H, CH2, CHH), 5.21 (dd, J=6, 11 Hz, 1H, NCH), 7.25 (d, J=8 Hz, 1H, Ar), 7.46 (d, J=8 Hz, 1H, Ar), 7.64 (t, J=8 Hz, 1H, Ar), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 11.18, 21.05, 22.48, 28.02, 35.51, 55.26, 118.64, 125.00, 128.86, 133.70, 139.82, 148.27, 157.69, 161.14, 169.75, 172.63; LCMS: MH=300; Anal Calcd for C16H17N3O3: C, 64.20; H, 5.72; N, 14.04. Found: C, 61.30; H, 5.34; N, 13.28.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide | 1.9 mmol, 0.5 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)C | C13H15N3O3
reactant | triethyl orthopropionate | 2.1 mmol, 0.42 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | water | 30 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 15 mL | CO | CH4O
product | 3-(2-ethyl-5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 0.13 g, 22% yield | C(C)C1=NC2=CC=CC(=C2C(N1C1C(NC(CC1)=O)=O)=O)C | C16H17N3O3
